US05216105
15 ml of water was added to 9.6 g of 1-naphthalene sulfinic acid and a solution of 2 g of sodium hydroxide in 5 ml of water was added to the mixture. To the solution there was added a solution of 6.3 g of vinylsulfonyl chloride in 20 ml of acetonitrile at room temperature with stirring and the mixture was stirred at room temperature for additional 24 hours. The reaction solution was poured into 300 ml of water, the resulting precipitates were recovered through filtration and recrystallized from a mixed solvent of benzene and ethanol to give 3.5 g of vinyl-1-naphthyldisulfone.

reactant | 1-naphthalene sulfinic acid | 9.6 g | C1(=CC=CC2=CC=CC=C12)S(=O)O | C10H8O2S
reactant | sodium hydroxide | 2 g | [OH-].[Na+]
reactant | vinylsulfonyl chloride | 6.3 g | C(=C)S(=O)(=O)Cl | C2H3ClO2S
solvent | water | 5 ml | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 300 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | vinyl-1-naphthyldisulfone | 3.5 g | C(=C)S(S(=O)(=O)C1=CC=CC2=CC=CC=C12)(=O)=O | C12H10O4S2
